US07429581B2
(ii) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrazole-3,5-dicarboxylic acid dimethyl ester
To a solution of 1 g 1H-Pyrazole-3,5-dicarboxylic acid diethyl ester in 20 ml of DMF and 188 mg of sodium hydride (60% in mineral oil) were added at RT. After stirring for 20 min at room temperature 1.32 g of 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole were added. The reaction was stirred at room temperature for 3 h. Then 100 ml water were added and the precipitating product was collected by filtration. Yield: 1.7 g.

reactant | 1H-Pyrazole-3,5-dicarboxylic acid diethyl ester | 1 g | C(C)OC(=O)C1=NNC(=C1)C(=O)OCC | C9H12N2O4
reactant | sodium hydride | 188 mg | [H-].[Na+]
reactant | 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 1.32 g | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
reactant | water | 100 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrazole-3,5-dicarboxylic acid dimethyl ester | COC(=O)C1=NN(C(=C1)C(=O)OC)CC1=NOC(=C1)C=1SC(=CC1)Cl | C15H12ClN3O5S
